US05126225
Example 1: Preparation of N,N-Dimethyl-N-(2-phenoxyethyl)benzylammonium Bromide
A solution of 40.21 grams (0.20 mol) of 2-bromoethyl phenyl ether, 27.04 grams (0.20 mol) of N,N-dimethylbenzylamine and 135 milliters of acetonitrile was heated at reflux for 16.75 hrs. The reaction mixture was concentrated and then cooled. On standing, the residue crystallized. The solid was stirred in ether, collected and dried. The yield of product was 66.0 grams (98.13% of theory); mp=100°-110° C.

reactant | 2-bromoethyl phenyl ether | 0.20 mol, 40.21 grams | C1(=CC=CC=C1)OCCBr | C8H9BrO
reactant | N,N-dimethylbenzylamine | 0.20 mol, 27.04 grams | CN(C)CC1=CC=CC=C1 | C9H13N
solvent | acetonitrile | C(C)#N | C2H3N
product | N,N-Dimethyl-N-(2-phenoxyethyl)benzylammonium Bromide | [Br-].C[N+](CCOC1=CC=CC=C1)(C)CC1=CC=CC=C1 | InChI=1S/C17H22NO.BrH/c1-18(2,15-16-9-5-3-6-10-16)13-14-19-17-11-7-4-8-12-17;/h3-12H,13-15H2,1-2H3;1H/q+1;/p-1
